US07235551B2
a) 4-Chloro-2-methylsulfanyl-6-phenylamino-pyrimidine-5-carbonitrile
4,6-Dichloro-2-methylsulfanyl-pyrimidine-5-carbonitrile [Santilli, et al., J. Heterocycl. Chem. 1971, 8, 445–453] (0.222 grams (hereinafter “g”), 1.0 millimoles (hereinafter “mmol”)) in EtOH (2 mnililiters (hereinafter “mL”)) and Et2O (mL) was treated with aniline (184 microliter (hereinafter “uL”), 2.0 mmol) in EtOH (1 mL). A clear solution formed initially but rapidly formed a heavy precipitate. The mixture was stirred 30 minutes (hereinafter “min”) and was filtered, and the solid was washed with 1:1 Et2O, EtOH and then Et2O, dried to afford 162 miligrams (hereinafter “mg”) (59%) of the title compound as a white solid. LC MS m/e=277 (NM+), Rt=2.32 min.

reactant | 4,6-Dichloro-2-methylsulfanyl-pyrimidine-5-carbonitrile | 1.0 millimoles, 0.222 grams | ClC1=NC(=NC(=C1C#N)Cl)SC | C6H3Cl2N3S
reactant | aniline | 2.0 mmol, 184 microliter | NC1=CC=CC=C1 | C6H7N
solvent | EtOH | CCO | C2H6O
solvent | Et2O | CCOCC | C4H10O
solvent | EtOH | 1 mL | CCO | C2H6O
product | 4-Chloro-2-methylsulfanyl-6-phenylamino-pyrimidine-5-carbonitrile | 59% | ClC1=NC(=NC(=C1C#N)NC1=CC=CC=C1)SC | C12H9ClN4S
